US08440689B2
B. (R)-2-(4-Chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoic acid
A mixture of (R)-methyl 2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoate (2.9 g, 6.04 mmol) in MeOH (10 mL) and 1N NaOH (40.0 mL) was stirred at 50° C. for 2 h. UPLC showed 30% starting material remained. Additional saturated NaOH solution (5 mL) was added and the reaction mixture was stirred for 3 h at 50° C. The solvent was removed and the resulting residue was dispersed in H2O (100 mL) and acidified to pH 3 using HCl. After stirring at RT for 2 h, the solid was filtered to give the title compound. [M+H] calc'd for C22H25ClFN3O5, 466. found, 466.

reactant | (R)-methyl 2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoate | 6.04 mmol, 2.9 g | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)OC)CC(C)C | C23H27ClFN3O5
solvent | MeOH | 10 mL | CO | CH4O
solvent | NaOH | 1N, 40.0 mL | [OH-].[Na+]
solvent | NaOH | 5 mL | [OH-].[Na+]
product | (R)-2-(4-Chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoic acid | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)O)CC(C)C | C22H25ClFN3O5
